US04028344
Preparation of 1,1'-Ethylenebis-[3-(1-t-butylazocyclohexyl)thiourea]
To 10.25 grams (.044 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane cooled to 10° C. and stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 1.73 grams (.0222 moles) of ethylenediamine. The reaction mixture became viscous, pentane was added and the reaction mixture stirred for 6 hours at room temperature. The pentane was stripped from the reaction mixture to leave a yellow solid weighing 10.7 grams (90% crude yield). The product melted at 149°-152° C. with decomposition and its infrared spectrum had a strong band at 1530 cm-1 and moderate NH bands at 3350 cm-1 and the isothiocyanate band at 2040 cm-1 was absent.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | .044 moles, 10.25 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | ethylenediamine | .0222 moles, 1.73 grams | C(CN)N | C2H8N2
reactant | isothiocyanate | [N-]=C=S
solvent | pentane | CCCCC | C5H12
product | 1,1'-Ethylenebis-[3-(1-t-butylazocyclohexyl)thiourea] | C(CNC(=S)NC1(CCCCC1)N=NC(C)(C)C)NC(=S)NC1(CCCCC1)N=NC(C)(C)C | C24H46N8S2
